US04886835
The procedure is as in Example 20 for the preparation of ethyl n-decanoate, starting with (phenylthio)acetic acid (20 g) and 36N aqueous sulphuric acid solution (0.32 cc) in cyclohexanol (100 cc). After purification by chromatography on a silica column with a mixture of cyclohexane and ethyl acetate (70:30 by volume) as eluent, cyclohexyl (phenylthio)acetate (29 g) is obtained, and is used in the crude state in the subsequent phases.

reactant | ethyl n-decanoate | C(CCCCCCCCC)(=O)OCC | C12H24O2
reactant | (phenylthio)acetic acid | 20 g | C1(=CC=CC=C1)SCC(=O)O | C8H8O2S
reactant | sulphuric acid | 36N, 0.32 cc | S(O)(O)(=O)=O | H2O4S
solvent | cyclohexanol | 100 cc | C1(CCCCC1)O | C6H12O
product | cyclohexyl (phenylthio)acetate | 29 g | C1(=CC=CC=C1)SCC(=O)OC1CCCCC1 | C14H18O2S
